** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sch

./include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice

.subckt ShiftReg_row_25 Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19]
+ Q[20] Q[21] Q[22] Q[23] Q[24] Q[25] D_in PHI_1 PHI_2 VDDd VSSd
*.PININFO PHI_1:I PHI_2:I D_in:I Q[1:25]:O VDDd:B VSSd:B
xFF[1] D_in Q[1] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[2] Q[1] Q[2] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[3] Q[2] Q[3] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[4] Q[3] Q[4] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[5] Q[4] Q[5] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[6] Q[5] Q[6] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[7] Q[6] Q[7] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[8] Q[7] Q[8] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[9] Q[8] Q[9] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[10] Q[9] Q[10] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[11] Q[10] Q[11] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[12] Q[11] Q[12] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[13] Q[12] Q[13] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[14] Q[13] Q[14] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[15] Q[14] Q[15] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[16] Q[15] Q[16] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[17] Q[16] Q[17] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[18] Q[17] Q[18] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[19] Q[18] Q[19] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[20] Q[19] Q[20] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[21] Q[20] Q[21] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[22] Q[21] Q[22] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[23] Q[22] Q[23] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[24] Q[23] Q[24] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[25] Q[24] Q[25] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
.ends

* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sch
.subckt DFF_2phase_1 D Q PHI_1 PHI_2 VDDd VSSd
*.PININFO D:I PHI_1:I PHI_2:I Q:O VDDd:B VSSd:B
xmain D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
xsecondary out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
* noconn VSSd
* noconn VDDd
.ends

