** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/digital_interface_and_clock_gen/digital_interface_and_clock_gen.sch

./include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice

.subckt digital_interface_and_clock_gen data data_out clock PHI_1 PHI_2 enable enable_out VDDd VSSd
*.PININFO data:I clock:I enable:I VSSd:B VDDd:B data_out:O PHI_1:O PHI_2:O enable_out:O
xNO_ClkGen PHI_2_gen clock_gated PHI_1_gen VDDd VSSd NO_ClkGen
x6 PHI_2_gen net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x7 net1 PHI_2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x9 PHI_1_gen net2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x10 net2 PHI_1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x12 data_gated net3 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x13 net3 net8 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x2 net7 net4 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x8 net4 enable_out VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x11 net5 net4 net10 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_4
x4 net6 net4 net11 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_4
x1 net11 clock_gated VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x3 net10 data_gated VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x5 VDDd clock net6 VSSd Schmitt
x14 VDDd data net5 VSSd Schmitt
x15 VDDd enable net7 VSSd Schmitt
XR1 VSSd enable VSSd ppolyf_u r_width=1e-6 r_length=20e-6 m=2
x16 net8 net9 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_12
x17 net9 data_out VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
.ends

* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sym # of pins=5
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sch
.subckt NO_ClkGen PHI_2 CLK PHI_1 VDDd VSSd
*.PININFO CLK:I PHI_2:O PHI_1:O VDDd:B VSSd:B
x1 CLKB OUT_bot_d OUT_top VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x2 OUT_top_d CLKbuf OUT_bot VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x3 OUT_top PHI_2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x4 PHI_2 in_d_2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x6 OUT_bot PHI_1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x9 CLKB CLKbuf VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x10 CLK CLKB VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
* noconn VDDd
* noconn VSSd
xinv1[1] in_d_2 out_2[1] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[2] out_2[1] out_2[2] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[3] out_2[2] out_2[3] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[4] out_2[3] out_2[4] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[5] out_2[4] out_2[5] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[6] out_2[5] out_2[6] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[7] out_2[6] out_2[7] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[8] out_2[7] out_2[8] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[9] out_2[8] out_2[9] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[10] out_2[9] out_2[10] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[11] out_2[10] out_2[11] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[12] out_2[11] out_2[12] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[13] out_2[12] out_2[13] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[14] out_2[13] out_2[14] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[15] out_2[14] out_2[15] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[16] out_2[15] out_2[16] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[17] out_2[16] out_2[17] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[18] out_2[17] out_2[18] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[19] out_2[18] out_2[19] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv1[20] out_2[19] OUT_top_d VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x5 PHI_1 in_d_1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[1] in_d_1 out_1[1] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[2] out_1[1] out_1[2] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[3] out_1[2] out_1[3] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[4] out_1[3] out_1[4] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[5] out_1[4] out_1[5] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[6] out_1[5] out_1[6] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[7] out_1[6] out_1[7] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[8] out_1[7] out_1[8] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[9] out_1[8] out_1[9] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[10] out_1[9] out_1[10] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[11] out_1[10] out_1[11] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[12] out_1[11] out_1[12] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[13] out_1[12] out_1[13] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[14] out_1[13] out_1[14] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[15] out_1[14] out_1[15] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[16] out_1[15] out_1[16] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[17] out_1[16] out_1[17] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[18] out_1[17] out_1[18] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[19] out_1[18] out_1[19] VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
xinv2[20] out_1[19] OUT_bot_d VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
XMcapbot[1] VSSd out_1[1] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[2] VSSd out_1[2] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[3] VSSd out_1[3] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[4] VSSd out_1[4] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[5] VSSd out_1[5] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[6] VSSd out_1[6] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[7] VSSd out_1[7] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[8] VSSd out_1[8] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[9] VSSd out_1[9] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[10] VSSd out_1[10] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[11] VSSd out_1[11] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[12] VSSd out_1[12] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[13] VSSd out_1[13] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[14] VSSd out_1[14] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[15] VSSd out_1[15] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[16] VSSd out_1[16] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[17] VSSd out_1[17] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[18] VSSd out_1[18] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[19] VSSd out_1[19] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbot[20] VSSd OUT_bot_d VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[1] VSSd out_2[1] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[2] VSSd out_2[2] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[3] VSSd out_2[3] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[4] VSSd out_2[4] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[5] VSSd out_2[5] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[6] VSSd out_2[6] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[7] VSSd out_2[7] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[8] VSSd out_2[8] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[9] VSSd out_2[9] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[10] VSSd out_2[10] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[11] VSSd out_2[11] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[12] VSSd out_2[12] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[13] VSSd out_2[13] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[14] VSSd out_2[14] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[15] VSSd out_2[15] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[16] VSSd out_2[16] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[17] VSSd out_2[17] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[18] VSSd out_2[18] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[19] VSSd out_2[19] VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcaptop[20] VSSd OUT_top_d VSSd VSSd nfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[1] VDDd out_1[1] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[2] VDDd out_1[2] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[3] VDDd out_1[3] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[4] VDDd out_1[4] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[5] VDDd out_1[5] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[6] VDDd out_1[6] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[7] VDDd out_1[7] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[8] VDDd out_1[8] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[9] VDDd out_1[9] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[10] VDDd out_1[10] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[11] VDDd out_1[11] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[12] VDDd out_1[12] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[13] VDDd out_1[13] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[14] VDDd out_1[14] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[15] VDDd out_1[15] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[16] VDDd out_1[16] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[17] VDDd out_1[17] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[18] VDDd out_1[18] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[19] VDDd out_1[19] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcapbotp[20] VDDd OUT_bot_d VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[1] VDDd out_2[1] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[2] VDDd out_2[2] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[3] VDDd out_2[3] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[4] VDDd out_2[4] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[5] VDDd out_2[5] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[6] VDDd out_2[6] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[7] VDDd out_2[7] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[8] VDDd out_2[8] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[9] VDDd out_2[9] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[10] VDDd out_2[10] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[11] VDDd out_2[11] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[12] VDDd out_2[12] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[13] VDDd out_2[13] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[14] VDDd out_2[14] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[15] VDDd out_2[15] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[16] VDDd out_2[16] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[17] VDDd out_2[17] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[18] VDDd out_2[18] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[19] VDDd out_2[19] VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
XMcaptopp[20] VDDd OUT_top_d VDDd VDDd pfet_06v0 L=1u W=25u nf=5 m=1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/Schmitt/Schmitt.sym # of pins=4
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/Schmitt/Schmitt.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/Schmitt/Schmitt.sch
.subckt Schmitt VDD Vin Vo VSS
*.PININFO VDD:I VSS:I Vin:I Vo:O
XM9 schmitt Vin bot VSS nfet_06v0 L=0.70u W=2u nf=2 m=1
XM10 schmitt Vin top VDD pfet_06v0 L=0.55u W=6u nf=2 m=1
XM11 VDD schmitt bot VSS nfet_06v0 L=0.70u W=2u nf=2 m=1
XM12 top Vin VDD VDD pfet_06v0 L=0.55u W=6u nf=2 m=1
XM13 Vo schmitt VSS VSS nfet_06v0 L=0.70u W=2u nf=2 m=1
XM14 Vo schmitt VDD VDD pfet_06v0 L=0.55u W=6u nf=2 m=1
XM15 VSS schmitt top VDD pfet_06v0 L=0.55u W=6u nf=2 m=1
XM1 bot Vin VSS VSS nfet_06v0 L=0.70u W=2u nf=2 m=1
.ends

