** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/tgate_PK/tgate_N_P_separate_lv_vsweep_tb.sch
**.subckt tgate_N_P_separate_lv_vsweep_tb
Vpow Vdd GND 3.3
Vin V_in GND 0.1
Ven en_p GND ven_p
Ven1 en_n GND ven_n
I0 V_out1 GND {Iload}
Vp2 net1 V_out1 0
.save i(vp2)
x1 net1 en_n en_p V_in Vdd GND transmission_gate
I1 V_out1p GND {Iload}
Vpp net2 V_out1p 0
.save i(vpp)
x2v net3 en_n en_p V_in Vdd GND net2 V_in transmission_gate_N_P_separate
I2 V_out1n GND {Iload}
Vpn net3 V_out1n 0
.save i(vpn)
**** begin user architecture code



.param temp=27
.param mn_w=24.0u
.param mp_w=72.0u
.param ven_p=0
.param ven_n=3.3

.param temp=27
*.param Iload=500u
.param Iload=10u
.control
save all

set num_threads 1
*dc I0 -5m 5m 1.1u
dc Vin 0 3.3 0.01

let Ron_N=(V(V_in)-V(V_out1n))/I(Vpn)
let Ron_P=(V(V_in)-V(V_out1p))/I(Vpp)
let Gon_N=1/Ron_N
let Gon_P=1/Ron_P
let Gon = Gon_N + Gon_P
let Ron = 1/Gon
* meas dc Ronmax max Ron
* print Ronmax
* plot Ron title 'RON resistance'  ylabel 'Ron'
* plot Gon_N Gon_P Gon title 'GON conductance'  ylabel 'Gon'
* wrdata /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/tgate/out_Ron.txt Ron
write tb_tgate_N_P_separate_typical.raw
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

*.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice

**** end user architecture code
**.ends

* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate.sch
.subckt transmission_gate B GN GP A BP BN
*.iopin B
*.iopin GN
*.iopin A
*.iopin GP
*.iopin BN
*.iopin BP
XM1 A GN B BN nfet_03v3 L=0.28u W=mn_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 A GP B BP pfet_03v3 L=0.28u W=mp_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate_N_P_separate.sym # of pins=8
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate_N_P_separate.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/tgate_PK/transmission_gate_N_P_separate.sch
.subckt transmission_gate_N_P_separate Bnmos GN GP Anmos BP BN Bpmos Apmos
*.iopin Bnmos
*.iopin GN
*.iopin Anmos
*.iopin GP
*.iopin BN
*.iopin BP
*.iopin Apmos
*.iopin Bpmos
XM1 Anmos GN Bnmos BN nfet_03v3 L=0.28u W=mn_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 Apmos GP Bpmos BP pfet_03v3 L=0.28u W=mp_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.GLOBAL GND
.end
